US08211904B2
Step 1: methyl-3-methylpent-2-enoate
To a 0° C. mixture of methyl diethylphosphonoacetate (12.7 ml, 69.3 mmol) and sodium methoxide (13.0 ml, 69.3 mmol) was added dropwise 2-butanone (5.81 ml, 69.3 mmol) over 30 min. After the addition, the mixture warmed to rt and stirred overnight. To the reaction was added 20 mL of H2O. The mixture was extracted with EtOAc (3 times). The combined organics were dried with MgSO4, filtered, and concentrated. The crude oil was distilled at 110° C. at 35 mmHg to give the desired product.

reactant | methyl diethylphosphonoacetate | 69.3 mmol, 12.7 ml | C(C)OP(=O)(OCC)CC(=O)OC | C7H15O5P
reactant | sodium methoxide | 69.3 mmol, 13.0 ml | C[O-].[Na+]
reactant | 2-butanone | 69.3 mmol, 5.81 ml | CC(CC)=O | C4H8O
solvent | H2O | 20 mL | O | H2O
product | methyl-3-methylpent-2-enoate | COC(C=C(CC)C)=O | C7H12O2
